US06878501B2
Synthesis of 2,2,2-trifluoroethyl bicyclo[2.2.1]hept-5-ene-2-carboxylate
A 500-ml three-necked flask was charged with 62.0 g of cyclopentadiene resulting from pyrolysis of dicyclopentadiene. While the flask was placed in a water bath to keep the reaction temperature below 25° C., 125.6 g of 2,2,2-trifluoroethyl acrylate was added dropwise. The water bath was removed at the end of dropwise addition, and stirring was continued overnight. The resulting oily substance was distilled in vacuum, collecting 147.2 g of 2,2,2-trifluoroethyl bicyclo[2.2.1]hept-5-ene-2-carboxylate. The yield was 82.0%.

reactant | cyclopentadiene | 62.0 g | C1=CC=CC1 | C5H6
reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | 2,2,2-trifluoroethyl acrylate | 125.6 g | C(C=C)(=O)OCC(F)(F)F | C5H5F3O2
product | 2,2,2-trifluoroethyl bicyclo[2.2.1]hept-5-ene-2-carboxylate | yield was 82.0% | C12C(CC(C=C1)C2)C(=O)OCC(F)(F)F | C10H11F3O2
